US09334278B2
To a stirred solution of 3,5-dibromo-6-chloro-pyrazin-2-ylamine (5.0 g, 17.42 mmol) in anhydrous THF (40 mL) was added triethylamine (3.52 g, 34.84 mmol) and CuI (0.333 g, 1.74 mmol). The mixture was degassed with bubbling argon for 10 min then evacuated and back-filled with argon. It was purged thoroughly with argon for 20 min and Pd(PPh3)2Cl2 (0.355 g, 0.52 mmol) was added. The reaction mixture was cooled to −5° C., TMS-acetylene (1.90 g, 19.16 mmol) was added very slowly and the temperature was slowly increased to 15° C. during 3 h. The reaction mixture was diluted with water (30 mL) and extracted with ethyl acetate (100 mL×3). The combined organic layers were concentrated in vacuo then purified by chromatography (silica, 5% ethyl acetate in hexanes) to give 5-bromo-6-chloro-3-trimethylsilanylethynyl-pyrazin-2-ylamine (4.0 g, 75%) as a yellow solid. LC-MS: 304.0 (M+H).

reactant | 3,5-dibromo-6-chloro-pyrazin-2-ylamine | 17.42 mmol, 5.0 g | BrC=1C(=NC(=C(N1)Br)Cl)N | C4H2Br2ClN3
reactant | triethylamine | 34.84 mmol, 3.52 g | C(C)N(CC)CC | C6H15N
reactant | TMS-acetylene | 19.16 mmol, 1.90 g | [Si](C)(C)(C)C#C | C5H10Si
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
catalyst | CuI | 1.74 mmol, 0.333 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.52 mmol, 0.355 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-bromo-6-chloro-3-trimethylsilanylethynyl-pyrazin-2-ylamine | 4.0 g, 75% | BrC=1N=C(C(=NC1Cl)N)C#C[Si](C)(C)C | C9H11BrClN3Si
